US08802659B2
N-((1H-tetrazol-5-yl)methyl)-1-(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine
To a solution of 2-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)acetonitrile (240 mg, 0.69 mmol) in water and isopropanol (10 mL, 1:5) was added NaN3 (50 mg, 0.76 mmol, 1.1 eq) and ZnBr2 (153 mg, 0.69 mmol, 1.0 eq), then refluxed for 18 h. The reaction was cooled to 0° C. and saturated NaHCO3 was added. The mixture was extracted with DCM (20 mL×3) and the aqueous layer was destroyed by NaClO solution. The organic layer was concentrated and the residue was the title compound as a white solid (27 mg, yield: 11%). ESI-MS (M+H+): 394.3. HPLC: 91.15%, 1H NMR (400 MHz, CD3OD) δ: 7.82 (s, 1H), 7.79-7.72 (m, 2H), 7.42 (d, 1H), 7.16 (d, 2H), 4.47-4.31 (m, 5H), 2.26 (d, 2H), 1.89 (d, 2H), 1.45-1.41 (m, 2H), 1.24-1.09 (m, 3H), 0.88 (s, 9H)

reactant | 2-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)acetonitrile | 0.69 mmol, 240 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC#N | C23H30N2O
reactant | NaN3 | 0.76 mmol, 50 mg, 1.1 eq | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
catalyst | ZnBr2 | 0.69 mmol, 153 mg, 1.0 eq | [Zn+2].[Br-].[Br-]
product | N-((1H-tetrazol-5-yl)methyl)-1-(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine | 27 mg, yield: 11% | N1N=NN=C1CNCC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C23H31N5O
